US05635510
22.2 Synthesis of [3-phenyl-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester
Prepared by the method of example 1.2.2 using 3-cyano-3-phenyl-pentanedioic acid diethyl ester (37 mmol) and Raney nickel (70 g) to give the title compound:

reactant | 3-cyano-3-phenyl-pentanedioic acid diethyl ester | 37 mmol | C(C)OC(CC(CC(=O)OCC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
catalyst | Raney nickel | 70 g | [Ni] | Ni
product | [3-phenyl-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC=CC=C1)=O | C14H17NO3
